US08048902B2
To a solution of 3,5-dibromobenzoic acid (2.5 g, 8.9 mmol) in Et2O (30 mL) at 0° C. was added methyl lithium (1.6M in diethyl ether; 12.3 mL, 19.6 mmol) was added dropwise. The reaction was warmed to room temperature and stirred for 2 hours. Acidic work-up, followed by silica gel chromatography, gave 1-(3,5-dibromo-phenyl)-ethanone.

reactant | 3,5-dibromobenzoic acid | 8.9 mmol, 2.5 g | BrC=1C=C(C(=O)O)C=C(C1)Br | C7H4Br2O2
reactant | methyl lithium | 19.6 mmol, 1.6M, 12.3 mL | C[Li]
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | 1-(3,5-dibromo-phenyl)-ethanone | BrC=1C=C(C=C(C1)Br)C(C)=O | C8H6Br2O
